US04287350
Similarly to Example 1, 256 g/h of N-t-butylaminoethanol are reacted with 333 g/h of carbon disulphide to form 382 g/h of N-t-butylthiazolidine-2-thione having a melting point of from 69° to 70° C.

reactant | N-t-butylaminoethanol | C(C)(C)(C)NC(C)O | C6H15NO
reactant | carbon disulphide | C(=S)=S | CS2
product | N-t-butylthiazolidine-2-thione | C(C)(C)(C)N1C(SCC1)=S | C7H13NS2
